* SKY130 StrongARM Latch Comparator
* Classic StrongARM topology: input pair + cross-coupled inverter latch
* Parameterized for DE optimization across PVT corners + Monte Carlo

* NOTE: .lib corner and supply voltage are substituted by evaluate.py
.lib "sky130_models/sky130.lib.spice" {corner}

* Supply — voltage is a parameter for PVT sweep
Vdd vdd 0 DC {Vsupply}
Vss vss 0 DC 0

* Clock — 10 MHz (period 100ns, 50ns eval / 50ns precharge)
Vclk clk 0 PULSE(0 {Vsupply} 0 0.1n 0.1n 50n 100n)

* Differential input: small offset for trip-point measurement
* Vinp = Vcm + Vdiff/2, Vinm = Vcm - Vdiff/2
Vinp inp 0 DC {Vinp}
Vinm inm 0 DC {Vinm}

* === StrongARM Latch Comparator ===

* Tail NMOS (clocked — enables current during evaluation)
XMtail ntail clk vss vss sky130_fd_pr__nfet_01v8 W={Wtail}u L={Ltail}u nf=1

* Input differential pair (NMOS LVT — lower Vth for better 1.2V headroom)
XM1 d1 inp ntail vss sky130_fd_pr__nfet_01v8_lvt W={Win}u L={Lin}u nf=1
XM2 d2 inm ntail vss sky130_fd_pr__nfet_01v8_lvt W={Win}u L={Lin}u nf=1

* Reset PMOS (precharge all internal nodes to VDD when CLK=0)
XMr1 d1 clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst}u L=0.15u nf=1
XMr2 d2 clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst}u L=0.15u nf=1
XMr3 outn clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst}u L=0.15u nf=1
XMr4 outp clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst}u L=0.15u nf=1

* Cross-coupled PMOS latch
XMp1 outp outn vdd vdd sky130_fd_pr__pfet_01v8 W={Wlatp}u L={Llatp}u nf=1
XMp2 outn outp vdd vdd sky130_fd_pr__pfet_01v8 W={Wlatp}u L={Llatp}u nf=1

* Cross-coupled NMOS latch (sources to input pair drains for signal coupling)
XMn1 outp outn d1 vss sky130_fd_pr__nfet_01v8 W={Wlatn}u L={Llatn}u nf=1
XMn2 outn outp d2 vss sky130_fd_pr__nfet_01v8 W={Wlatn}u L={Llatn}u nf=1

* Output buffers (inverters for clean digital output)
XMbp1 bufp outp vdd vdd sky130_fd_pr__pfet_01v8 W=2u L=0.15u nf=1
XMbn1 bufp outp vss vss sky130_fd_pr__nfet_01v8 W=1u L=0.15u nf=1
XMbp2 bufn outn vdd vdd sky130_fd_pr__pfet_01v8 W=2u L=0.15u nf=1
XMbn2 bufn outn vss vss sky130_fd_pr__nfet_01v8 W=1u L=0.15u nf=1

.options reltol=0.003 method=gear
.temp {temperature}

* === Measurements ===
.control

* Transient simulation — 3 complete clock cycles
tran 0.1n 300n

* Check comparator output at mid-evaluation of 2nd cycle (125ns)
meas tran outp_val find v(bufp) at=125n
meas tran outm_val find v(bufn) at=125n

* Rise-time delay: CLK rising edge to output crossing Vsupply/2
meas tran tclk when v(clk)=0.9 rise=2
meas tran tout_rise when v(bufp)=0.9 rise=2

* Average supply current for power calculation
meas tran avg_idd avg i(Vdd) from=50n to=250n

echo "RESULT_OUTP_VAL $&outp_val"
echo "RESULT_OUTM_VAL $&outm_val"
echo "RESULT_TCLK $&tclk"
echo "RESULT_TOUT_RISE $&tout_rise"
echo "RESULT_AVG_IDD $&avg_idd"
echo "RESULT_DONE"
.endc

.end
